US09328099B2
Step A. 4-(Cyanomethylidene)piperidinium chloride
tert-Butyl 4-(cyanomethylidene)piperidine-1-carboxylate (20 g, 90 mmol) was dissolved in 4M HCl in dioxane and allowed to stir at ambient temperature for 2 hours. The mixture was then concentrated in vacuo to afford the title compound.

reactant | tert-Butyl 4-(cyanomethylidene)piperidine-1-carboxylate | 90 mmol, 20 g | C(#N)C=C1CCN(CC1)C(=O)OC(C)(C)C | C12H18N2O2
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(Cyanomethylidene)piperidinium chloride | [Cl-].C(#N)C=C1CC[NH2+]CC1 | InChI=1S/C7H10N2.ClH/c8-4-1-7-2-5-9-6-3-7;/h1,9H,2-3,5-6H2;1H
